US04126687
A mixture of 18.3 parts of 1-[3-{4-[(2-aminophenyl)amino]-1-piperidinyl}propyl]-1,3-dihydro-2H-benzimidazol-2-one, 65 parts of carbon disulfide and 60 parts of ethanol is stirred and refluxed for 24 hours. The reaction mixture is evaporated. The residue is crystallized from ethanol. The product is filtered off and dried, yielding 4.5 parts (19.7%) of 1-{3-[4-(2,3-dihydro-2-thioxo-1H-benzimidazol-1-yl)-1-piperidinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-one; mp. 248.5° C.

reactant | 1-[3-{4-[(2-aminophenyl)amino]-1-piperidinyl}propyl]-1,3-dihydro-2H-benzimidazol-2-one | NC1=C(C=CC=C1)NC1CCN(CC1)CCCN1C(NC2=C1C=CC=C2)=O | C21H27N5O
reactant | carbon disulfide | C(=S)=S | CS2
solvent | ethanol | C(C)O | C2H6O
product | 1-{3-[4-(2,3-dihydro-2-thioxo-1H-benzimidazol-1-yl)-1-piperidinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-one | 19.7% | S=C1NC2=C(N1C1CCN(CC1)CCCN1C(NC3=C1C=CC=C3)=O)C=CC=C2 | C22H25N5OS
